US06175031B1
280 mg Vinyltrimethoxysilane and 381 mg 1,1,3,3-tetramethyldisiloxane were placed in a nitrogen-purged glass tube. This was followed by the addition of 28 mg dimethylacetoxysilane and 0.005 mL of a toluene solution (platinum content=0.04 weight %) of a zero-valent platinum complexed with divinylsiloxane. The tube was then sealed with Teflon® tape and a rubber septum and heated for 1 hour in an oil bath at 80° C. After cooling, GC analysis of the product showed the following: the vinyltrimethoxysilane had been consumed; the vinyltrimethoxysilane:1,1,3,3-tetramethyldisiloxane 1:1 adduct had been produced in a yield of 71%; and the α-adduct:β-adduct ratio was 1:5.7.

reactant | Vinyltrimethoxysilane | 280 mg | C(=C)[Si](OC)(OC)OC | C5H12O3Si
reactant | 1,1,3,3-tetramethyldisiloxane | 381 mg | C[SiH](O[SiH](C)C)C | C4H14OSi2
product | vinyltrimethoxysilane 1,1,3,3-tetramethyldisiloxane | yield of 71% | C(=C)[Si](OC)(OC)OC.C[SiH](O[SiH](C)C)C | InChI=1S/C5H12O3Si.C4H14OSi2/c1-5-9(6-2,7-3)8-4;1-6(2)5-7(3)4/h5H,1H2,2-4H3;6-7H,1-4H3
